US06489320B1
Part B: Preparation of 1-(2-Amino-5-fluorophenyl)-2,2,2-trifluoroethanone
To an ice-cooled solution of 4.0 g of N-(4-fluorophenyl)-2,2-dimethylpropanamide in 80 mL of dry THF was added dropwise over 30 min 30.8 mL of a 1.6 M solution of n-butyllithium in hexane. After addition was complete, the reaction mixture was stirred an additional 1 h at 0° after which time 5.63 mL of ethyl trifluoroacetate was added quickly dropwise. The cooling bath was removed and the reaction was allowed to proceed at ambient temperature for 40 min. The reaction was quenched by the addition of aqueous ammonium chloride and the reaction mixture was partitioned between ether and water. The ether layer was washed with brine, dried and evaporated to 6.29 g of the title compound as an orange oil. The bulk of this material (6.0 g) was dissloved in ethylene glycol dimethyl ether, 30 mL of 6N HCl was added nd the mixture was heated at reflux for 1.5 h. The cooled reaction mixture was diluted with water, and made basic by the addition of solid sodium carbonate. This was extracted with ether, and the combined extacts were dried and evaporated. The residue was purified by column chromatography over silica gel (elution with 10-20% ethyl acetate in hexanes) affording 2.10 g of the title compound as an orange solid.

reactant | N-(4-fluorophenyl)-2,2-dimethylpropanamide | 4.0 g | FC1=CC=C(C=C1)NC(C(C)(C)C)=O | C11H14FNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl trifluoroacetate | 5.63 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 1-(2-Amino-5-fluorophenyl)-2,2,2-trifluoroethanone | 2.10 g | NC1=C(C=C(C=C1)F)C(C(F)(F)F)=O | C8H5F4NO
